US07501430B2
12b: Preparation of 4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[piperidin-4-yl]pyrimidin-2-amine hydrochloride
The tert-butyl 4-({4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidine-1-carboxylate (0.713 g, 1.36 mmol) was dissolved in 15 ml of dioxane and treated with 7.5 ml of anhydrous 4N HCl in dioxane at room temperature (RT). The reaction mixture was stirred at room temperature for two hours. The mixture was then diluted with 25 ml of ether and stirred until product separated as a solid. Solid product was filtered and washed with ether. The solid was dissolved in MeOH (20 ml) and concentrated to dryness twice. The product was dried at high vacuum to yield 0.652g of yellow solid (bis HCl salt) (96%). 400 MHz 1H NMR (DMSO-d6 at 60° C.) δ: 9.32 (br. s, 1H), 8.10 (d, J=4.7 Hz, 1H), 7.61 (d, J=4.3 Hz, 1H), 7.39 (dd, J=8.2, 2.0 Hz, 1H), 7.33 (dd, J=11.3, 8.2 Hz, 1H), 7.19 (ddd, J=8.2, 4.3, 2.0 Hz, 1H), 6.56 (d, J=6.7 Hz, 1H), 4.30-4.20 (m, 1H), 3.86 (s, 3H), 3.40-3.32 (m, 2H), 3.12-2.96 (m, 2H), 2.22-2.12 (m, 2H), 1.99-1.86(m, 2H). LCMS: 425 [M+H].

reactant | tert-butyl 4-({4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidine-1-carboxylate | 1.36 mmol, 0.713 g | FC1=C(C=C(C=C1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)NC1CCN(CC1)C(=O)OC(C)(C)C)OC | C26H29FN6O3S
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | ether | 25 ml | CCOCC | C4H10O
product | 4-[6-(4-fluoro-3-methoxyphenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[piperidin-4-yl]pyrimidin-2-amine hydrochloride | 0.652g, 96% | Cl.FC1=C(C=C(C=C1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)NC1CCNCC1)OC | InChI=1S/C21H21FN6OS.ClH/c1-29-17-12-13(2-3-15(17)22)18-19(28-10-11-30-21(28)27-18)16-6-9-24-20(26-16)25-14-4-7-23-8-5-14;/h2-3,6,9-12,14,23H,4-5,7-8H2,1H3,(H,24,25,26);1H
